US05317103
A solution of ethyl-p-hydrazinobenzoate hydrochloride (10 g, 46 mmol) and 4-chlorobutanal dimethyl acetal (7.8 g, 46 mmol) in ethanol/water (5:1, 500 ml) was heated at reflux for 2 h. The solvent was removed under vacuum and the residue chromatographed through silica-gel eluting with dichloromethane/ethanol/ammonia (40:8:1) to give the title-indole as an oil (3.69 g). The hydrogen maleate salt was prepared, mp 127° C.; (Found: C, 59.46; H, 5.96; N, 8.47. C13H16N2O2.C4H4O4 requires C, 59.68; H, 5.93; N, 8.54%), m/e 232 (M+), δ(360 MHz, D2O) 1.43 (3H, t, J=7.1 Hz, Me); 3.21 (2H, t, J=7.0 Hz, CH2); 3.37 (2H, t, J=7.0 Hz, CH2); 4.42 (2H, q, J=7.1 Hz, CH2); 6.23 (2H, s, maleate-H); 7.40 (1H, s, indole-H); 7.56 (1H, d, J=8.8 Hz, aromatic-H); 7.88 (1H, dd, J=1.6 and 8.8 Hz, aromatic-H); 8.38 (1H, d, J=1.6 Hz, aromatic-H).

reactant | ethyl-p-hydrazinobenzoate hydrochloride | 46 mmol, 10 g | Cl.C(C)OC(C1=CC=C(C=C1)NN)=O
reactant | 4-chlorobutanal dimethyl acetal | 46 mmol, 7.8 g | COC(CCCCl)OC | C6H13ClO2
solvent | ethanol water | 500 ml | C(C)O.O
product | indole | 3.69 g | N1C=CC2=CC=CC=C12 | C8H7N
